US08314087B2
tert-Butyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate.
To a stirred suspension of tert-butyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate (800 mg, 2017 μmol) in ACN (10 mL) was added hydrogen fluoride pyridine (484 μl, 24206 μmol). The reaction mixture was stirred for 1 h and quenched with dry silica. The solvent was removed under reduced pressure and the product purified on silica (40 g) eluting with 0-5% MeOH/CH2Cl2. MS (ESI pos. ion) m/z (MH+): 283. Calc'd exact mass for C14H22N2O4: 282.

reactant | tert-butyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate | 2017 μmol, 800 mg | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=CC1=O)NC(OC(C)(C)C)=O | C20H36N2O4Si
reactant | hydrogen fluoride pyridine | 24206 μmol, 484 μl | N1=CC=CC=C1.F
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | tert-Butyl 1-(1-hydroxy-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate | OCC(C)(C)N1C=C(C=CC1=O)NC(OC(C)(C)C)=O | C14H22N2O4
